US06399613B1
A solution of 500 mg of 2,5-dimethoxycarbonylpyrazine and 0.430 cm3 of 2-methoxyethylamine in 3 cm3 of ethanol is heated at a temperature in the region of the reflux temperature for 5 hours. The reaction mixture is cooled to a temperature of 20° C. and the white solid formed is then filtered off and washed with twice 5 cm3 of ethanol. 150 mg of N,N′-bis-(2-methoxyethyl)pyrazine-2,5-dicarboxamide are thus obtained in the form of a white solid melting at 165° C. [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 3.29 (s, 6H: 2×OCH3); 3.51 (mt, 8H: 2×NCH2CH2O); 8.99 (mt, 2H: 2×CONH); 9.22 (s, 2H: ═CH at 3 and ═CH at 6)].

reactant | 2,5-dimethoxycarbonylpyrazine | 500 mg | COC(=O)C1=NC=C(N=C1)C(=O)OC | C8H8N2O4
reactant | 2-methoxyethylamine | 0.430 cm3 | COCCN | C3H9NO
solvent | ethanol | 3 cm3 | C(C)O | C2H6O
product | N,N′-bis-(2-methoxyethyl)pyrazine-2,5-dicarboxamide | 150 mg | COCCNC(=O)C1=NC=C(N=C1)C(=O)NCCOC | C12H18N4O4
